US08865759B2
Preparation of 4-oxo-4-{[1-(trifluoromethyl)cyclopropyl]amino}butanoic acid (IV-1)
Slowly, 800.7 mg (4.96 mmol) of 1-(trifluoromethyl)cyclopropanamine and 0.85 ml (4.96 mmol) of diisopropylethylamine were added to a solution of 496 mg (4.96 mmol) of succinic anhydride in 10 ml of dioxane, with ice-cooling (10° C.). Stirring was continued for 20 min at room temperature, and the mixture was allowed to stand overnight at this temperature. Again, stirring was continued for 20 min at 80° C., the mixture was allowed to cool to room temperature, and the solution was concentrated. Repeatedly, the solution was washed alternately with ethyl acetate and with water. The combined organic phases were dried and concentrated. This gave 815.8 mg (73% of theory) of the desired compound.

reactant | 1-(trifluoromethyl)cyclopropanamine | 4.96 mmol, 800.7 mg | FC(C1(CC1)N)(F)F | C4H6F3N
reactant | diisopropylethylamine | 4.96 mmol, 0.85 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | succinic anhydride | 4.96 mmol, 496 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-oxo-4-{[1-(trifluoromethyl)cyclopropyl]amino}butanoic acid | O=C(CCC(=O)O)NC1(CC1)C(F)(F)F | C8H10F3NO3
